US05098946
144 g of 2-ethylhexanoic acid was mixed with 93 g of cobalt hydroxide. 25 g of propionic acid was added thereto and the mixture was heated to 120° C. Water thus formed was distilled off. The temperature was further elevated to 170° C., and 100 g of butyl metaborate was added thereto. Butyl propionate formed as a by-product was distilled off at 230° C. to obtain cobalt metaborate 2-ethylhexanoate which was in a purple solid form at ambient temperature. The compound had a cobalt element content of 23.5% and a boron element content of 4.2%.

reactant | 2-ethylhexanoic acid | 144 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | propionic acid | 25 g | C(CC)(=O)O | C3H6O2
catalyst | cobalt hydroxide | 93 g | [OH-].[Co+2].[OH-]
solvent | Water | O | H2O
product | Butyl propionate | C(CC)(=O)OCCCC | C7H14O2
